US07381728B2
Step 2: 5-(cis-3,5-Dimethyl-1-piperazinyl)-2-chloroaniline (D34)
2-Chloro-5-iodoaniline (630 mg, 2.49 mmol) was heated at reflux in acetic acid (7 ml) and acetic anhydride (7 ml) for 18 hours. The solution was concentrated in vacuo, azeotroping with toluene. The residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic phase separated and washed with saturated aqueous sodium bicarbonate solution, water, brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to afford a mixture of the mono- and di-acylated acetamide (N-(2-chloro-5-iodophenyl)acetamide and N-acetyl-N-(2-chloro-5-iodophenyl)acetamide). To this product (820 mg) in 1,4-dioxane (12 ml) was added cis-2,6-dimethyl piperazine (416 mg, 3.64 mmol), sodium tert-butoxide (700 mg, 7.29 mmol), tris(dibenzylideneacetone)dipalladium(0) (45 mg, 0.049 mmol) and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (39 mg, 0.098 mmol) and the reaction heated at reflux for 18 hours under argon. The reaction mixture was cooled, diluted with ethyl acetate (30 ml) and stirred with a mixture of celite and charcoal. The solution was filtered through celite washing with ethyl acetate. The filtrate was concentrated in vacuo, and the residue partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic phase was washed with water, 50% saturated brine solution, brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was treated with 5N HCl (20 ml) and heated at reflux for 24 hours under argon. The reaction was cooled, and the solution washed with ethyl acetate (×3), poured onto ice, basified with 0.880 ammonia and extracted with dichloromethane (×4). The combined extracts were washed with water, brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica gel (gradient of 2% to 10% methanol in dichloromethane) to afford the title compound (D34). MS (ES+) m/e 240/242 [M+H]+.

reactant | 2-Chloro-5-iodoaniline | 2.49 mmol, 630 mg | ClC1=C(N)C=C(C=C1)I | C6H5ClIN
reactant | acetic anhydride | 7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | cis-2,6-dimethyl piperazine | 3.64 mmol, 416 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | sodium tert-butoxide | 7.29 mmol, 700 mg | CC(C)([O-])C.[Na+]
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.098 mmol, 39 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | charcoal | C | CH4
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | 1,4-dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.049 mmol, 45 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(cis-3,5-Dimethyl-1-piperazinyl)-2-chloroaniline | C[C@@H]1CN(C[C@@H](N1)C)C=1C=CC(=C(N)C1)Cl | C12H18ClN3
